US04329347
6-[4-(2-Pyridyl-sulfonyl)-butoxy]-carbostyril
Prepared analogous to Example 124 from 6-[4-(2-pyridylsulfinyl)-butoxy]-carbostyril and hydrogen peroxide.

reactant | 6-[4-(2-pyridylsulfinyl)-butoxy]-carbostyril | N1=C(C=CC=C1)S(=O)CCCCOC=1C=C2C=CC(NC2=CC1)=O | C18H18N2O3S
reactant | hydrogen peroxide | OO | H2O2
product | 6-[4-(2-Pyridyl-sulfonyl)-butoxy]-carbostyril | N1=C(C=CC=C1)S(=O)(=O)CCCCOC=1C=C2C=CC(NC2=CC1)=O | C18H18N2O4S
